US07842688B2
c) N-(5-Hydroxymethyl-2-methylphenyl)-3-methoxy-N-methylpropionamide
The solution of 4.50 g of 3-methoxy-N-methyl-N-[2-methyl-5-(tetrahydropyran-2-yloxymethyl)phenyl]propionamide in 70 ml of ethanol is admixed with 0.350 g of pyridinium p-toluenesulphonate and stirred at 60° C. over 2 hours. The reaction mixture is cooled and concentrated by evaporation. The title compound is obtained as a colourless oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.15 (3:1 EtOAc-heptane); Rt=2.60.

reactant | 3-methoxy-N-methyl-N-[2-methyl-5-(tetrahydropyran-2-yloxymethyl)phenyl]propionamide | 4.50 g | COCCC(=O)N(C1=C(C=CC(=C1)COC1OCCCC1)C)C | C18H27NO4
reactant | pyridinium p-toluenesulphonate | 0.350 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | N-(5-Hydroxymethyl-2-methylphenyl)-3-methoxy-N-methylpropionamide | OCC=1C=CC(=C(C1)N(C(CCOC)=O)C)C | C13H19NO3
